US04971957
1.80 Grams (15 mM) of indoline, 1.82 g (18 mM) of triethylamine and 0.37 g (3 mM) of 4-dimethylaminopyridine were dissolved in 30 ml of dry dichloroethane, to this solution was added dropwise slowly 30 ml of dry dichloromethane solution with 5.21 g (15 mM) of 4-diethoxyphosphinoylmethylbenzoyl chloride at 0° C. with stirring. After the stirring was continued for 10 hours at room temperature, 50 ml of water was added to the reaction mixture and extracted with chloroform. The extracts were dried over anhydrous sodium sulfate, and concentrated. The residue thus obtained was purified by means of a silica gel column chromatography (eluted with chloroform:ethyl acetate=1:1). The crude crystals were recrystallized from benzene-n-hexane to yield 3.90 g of 1-(4-diethoxyphosphinoylmethylbenzoyl)indoline as colorless crystals Melting point 93.0°-94.5° C.

reactant | indoline | 15 mM | N1CCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 18 mM, 1.82 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | 4-diethoxyphosphinoylmethylbenzoyl chloride | 15 mM, 5.21 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)Cl)C=C1 | C12H16ClO4P
catalyst | 4-dimethylaminopyridine | 3 mM, 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 50 ml | O | H2O
product | 1-(4-diethoxyphosphinoylmethylbenzoyl)indoline | 3.90 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)N2CCC3=CC=CC=C23)C=C1 | C20H24NO4P
